US06498172B1
3-(3-{[(1-Methyl-1 H-imidazole-4-sulfonyl)-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared following the method described in Step B of Example 1 from 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A of Example 11a, and 1-methyl-1 H-imidazole-4-sulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.99 (d, 1H), 8.63 (m, 1H), 8.50 (d, 1H), 7.88 (d, 2H), 7.55 (s, 1H), 7.42 (s, 1H), 7.32 (d, 2H), 7.13 (m, 1H), 7.04-6.97 (m, 3H), 4.47 (s, 2H), 4.41 (s, 2H), 3.75 (s, 3H), 3.65 (s, 3H), 2.82 (t, 2H), 2.51 (t, 2H); MS 506 (M+1)

reactant | 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C22H23N3O2
reactant | 1-methyl-1 H-imidazole-4-sulfonyl chloride | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(1-Methyl-1 H-imidazole-4-sulfonyl)-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CN=C1)S(=O)(=O)C=1N=CN(C1)C)=O | C26H27N5O4S
